US05977178
3-Aminopropan-1-ol (0.39 mL, 5.12 mmol) was added at room temperature to a solution of N-tert-butoxycarbonyl-N-methyl-D-phenylalanine (1.30 g, 4.65 mmol) in N,N-dimethylformamide (40 mL). 1-Hydroxybenzotriazole monohydrate (0.63 g, 4.65 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.89 g, 4.65 mmol) were added successively. The reaction mixture was stirred for 22 h at room temperature. It was diluted with 10% sodium hydrogensulfate solution (300 mL) and extracted with ethyl acetate (4×100 mL). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo and the crude product was purified by flash chromatography on silica (45 g) with dichloromethane/methanol (10:1) to give 1.01 g of N-((1R)-1-(3-hydroxypropylcarbamoyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester.

reactant | 3-Aminopropan-1-ol | 5.12 mmol, 0.39 mL | NCCCO | C3H9NO
reactant | N-tert-butoxycarbonyl-N-methyl-D-phenylalanine | 4.65 mmol, 1.30 g | C(C)(C)(C)OC(=O)N([C@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
reactant | 1-Hydroxybenzotriazole monohydrate | 4.65 mmol, 0.63 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 4.65 mmol, 0.89 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | sodium hydrogensulfate | 300 mL | S(=O)(=O)(O)[O-].[Na+]
product | N-((1R)-1-(3-hydroxypropylcarbamoyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 1.01 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)C(NCCCO)=O)=O | C18H28N2O4
